US08247430B2
2-aminoisonicotinonitrile
To a slurry of 2-chloro-4-cyanopyridine (10.00 g, 0.079 mol) and sodiumbicarbonate (19.92 g, 0.237 mol) in amine (0.174 mol) was added pyridine (35.0 mL) and the reaction was heated to 90° C. for 3 h. The reaction was then cooled to RT, diluted with the addition of CH2Cl2 (100 mL) and filtered. The solid was washed with EtOAc. Combined washes were concentrated in vacuo. A mixture of MeOH/hexanes was added and kept in the fridge for 12 h. The crystals that formed were filtered and washed with hexanes.

reactant | 2-chloro-4-cyanopyridine | 0.079 mol, 10.00 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | sodiumbicarbonate | 0.237 mol, 19.92 g | C([O-])(O)=O.[Na+]
reactant | pyridine | 35.0 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-aminoisonicotinonitrile | NC=1C=C(C#N)C=CN1 | C6H5N3
